US04165373
Preparation of 7-Amino-3-(tetrazolo[4,5-b]pyridazine-6-ylthiomethyl)-3-cephem-4-carboxylic Acid
2.72 g of 7-aminocephalosporanic acid was suspended in 16 ml of water and 8 ml of acetone, and a suspension of 2.1 g of sodium bicarbonate in 16 ml of water was dropwise added thereto over a period of 7 minutes time. The inside temperature of a reactor was then increased to 50° C., and a suspension of 2.3 g of 6-mercaptotetrazolo[4,5-b]pyridazine in 35 ml of acetone was added dropwise thereto over a period of time of 10 minutes. The resulting mixture was refluxed for 6 hours at a stable inside temperature of reactor of 61° C. followed by allowing the refluxed mixture to stand. The pH of the solution was 8 and thereafter, the mixture was adjusted to a pH of 3.6 with 6 N hydrochloric acid under ice cooling, in which the pH was measured by means of a pH meter and then stirred for 1 hour. The precipitated crystals were filtered and dried over phosphorus pentoxide under reduced pressure to obtain 2.39 g of the titled compound having a melting point (decomposition) of 202° to 205° C.

reactant | 7-aminocephalosporanic acid | 2.72 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | 2.1 g | C([O-])(O)=O.[Na+]
reactant | 6-mercaptotetrazolo[4,5-b]pyridazine | 2.3 g | SC=1C=CC=2N(N1)N=NN2 | C4H3N5S
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 16 ml | O | H2O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | water | 16 ml | O | H2O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 7-Amino-3-(tetrazolo[4,5-b]pyridazine-6-ylthiomethyl)-3-cephem-4-carboxylic Acid | 2.39 g | NC1[C@@H]2N(C(=C(CS2)CSC=2C=CC=3N(N2)N=NN3)C(=O)O)C1=O | C12H11N7O3S2
